US08183380B2
rac-2-Dimethylamino-N-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-acetamide
N,N-Dimethylglycine (49 mg, 0.48 mmol), N,N-diisopropyl ethyl amine (217 mg, 1.68 mmol) and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (220 mg, 0.69 mmol) were dissolved in dichloromethane (6 mL) and dimethylformamide (1.5 mL). The reaction mixture was stirred at room temperature for 30 minutes. rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine (150 mg, 0.47 mmol) was added and stirred was continued overnight. The reaction mixture was diluted with water and extracted with dichloromethane (3×). The combined organic phases were dried over sodium sulfate and evaporated. The crude product was purified by column chromatography (silica gel, dichloromethane/methanol 100:0→90:10). The title compound (147 mg, 77%) was obtained as a light brown solid; MS: m/e=405.5 (M+H+).

reactant | N,N-Dimethylglycine | 0.48 mmol, 49 mg | CN(CC(=O)O)C | C4H9NO2
reactant | N,N-diisopropyl ethyl amine | 1.68 mmol, 217 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.69 mmol, 220 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | 0.47 mmol, 150 mg | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | rac-2-Dimethylamino-N-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-acetamide | 147 mg, 77% | CN(CC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCCC2=CC=CC(=C12)OC)C | C24H28N4O2
